US09427442B2
Intermediate S-7A: tert-Butyl 5-oxohexanoate
To a solution of 5-oxohexanoic acid (25 g, 192 mmol) in t-butyl acetate (600 mL) was added perchloric acid (500 μL, 8.31 mmol) and the resulting pale yellow solution was allowed to stir at room temp, with a drying tube in place, for 65 h. The reaction was diluted with ethyl acetate (400 mL) and then quenched with a mixture of sodium bicarbonate (50 g, 595 mmol) and water (100 mL). The organic layer was extracted with saturated aqueous sodium bicarbonate (5×150 mL), water (1×100 mL), brine (1×75 mL), dried over sodium sulfate, and filtered. The solvent was removed in vacuo to give the title compound (30.55 g, 85%) as a light oil. 1H NMR (500 MHz, chloroform-d) δ 2.50 (t, J=7.2 Hz, 2H), 2.25 (t, J=7.3 Hz, 2H), 2.16 (s, 3H), 1.89-1.83 (m, 2H), 1.46 (s, 9H).

reactant | 5-oxohexanoic acid | 192 mmol, 25 g | O=C(CCCC(=O)O)C | C6H10O3
reactant | sodium bicarbonate | 595 mmol, 50 g | C([O-])(O)=O.[Na+]
reactant | water | 100 mL | O | H2O
reactant | t-butyl acetate | 600 mL | C(C)(=O)OC(C)(C)C | C6H12O2
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
catalyst | perchloric acid | 8.31 mmol, 500 μL | Cl(=O)(=O)(=O)O | ClHO4
product | tert-Butyl 5-oxohexanoate | 30.55 g, 85% | O=C(CCCC(=O)OC(C)(C)C)C | C10H18O3
